US08202863B2
To a solution of 3-cyano-N-methyl-benzenesulfonamide (4.88 g, 2.49 mmol) in MeOH (160 mL) is added concentrated HCl in water (16 mL) followed by the addition of Palladium on Carbon (10 wt %, 50 wt % water, 1.6 g). With magnetic stirring, the reaction is alternately placed under vacuum and 1 atmosphere of hydrogen (balloon) for three cycles. The reaction is then left under 1 atmosphere of hydrogen with stirring for 2 days. The reaction is filtered through celite and fresh Palladium on Carbon (10 wt %, 50 wt % water, 1.6 g) is added. The reaction is stirred for 24 hours under 1 atmosphere of hydrogen. The reaction is filtered through celite and the filtrate is concentrated in vacuo to provide 3-aminomethyl-N-methyl-benzenesulfonamide hydrochloride, as a solid (99%). MS: 201 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.41 (d, 3H), 4.12 (d, 2H), 7.23-7.57 (m, 2H), 7.70 (d, 1H), 7.81 (d, 1H), 8.49 (broad-s, 3H).

reactant | 3-cyano-N-methyl-benzenesulfonamide | 2.49 mmol, 4.88 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)NC | C8H8N2O2S
reactant | HCl | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 160 mL | CO | CH4O
solvent | water | 16 mL | O | H2O
catalyst | Palladium on Carbon | 1.6 g | [Pd] | Pd
product | 3-aminomethyl-N-methyl-benzenesulfonamide hydrochloride | Cl.NCC=1C=C(C=CC1)S(=O)(=O)NC | InChI=1S/C8H12N2O2S.ClH/c1-10-13(11,12)8-4-2-3-7(5-8)6-9;/h2-5,10H,6,9H2,1H3;1H
